US06521643B1
To a suspension of 5-formyl-2-guanidino-4-methylthiazole (1.0 g) and 2-amino-4-picoline (587 mg) in N,N-dimethylformamide (10 ml) and dichloromethane (60 ml) was added sodium triacetoxyborohydride (1.82 g), and the mixture was stirred for 140 hours. The mixture was evaporated under reduced pressure, and to the residue was added hydrochloric acid (1N, 12 ml). The pH was adjusted to 12 with 4N aqueous sodium hydroxide. The mixture was extracted with ethyl acetate twice. The combined organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, 5% methanol in dichloromethane), and the fractions containing objective compound were combined and evaporated. The residue was dissolved in ethanol, and to the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 2 ml). The precipitate was collected by filtration, washed with ethyl acetate-ethanol (1:1, 3 ml) and dried to give N-(5-(4-methylpyridin-2-ylaminomethyl)-4-methylthiazol-2-yl)-guanidine dihydrochloride (513 mg).

reactant | 5-formyl-2-guanidino-4-methylthiazole | 1.0 g | C(=O)C1=C(N=C(S1)NC(=N)N)C | C6H8N4OS
reactant | 2-amino-4-picoline | 587 mg | NC1=NC=CC(=C1)C | C6H8N2
reactant | sodium triacetoxyborohydride | 1.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(5-(4-methylpyridin-2-ylaminomethyl)-4-methylthiazol-2-yl)-guanidine dihydrochloride | 513 mg | Cl.Cl.CC1=CC(=NC=C1)NCC1=C(N=C(S1)NC(=N)N)C | InChI=1S/C12H16N6S.2ClH/c1-7-3-4-15-10(5-7)16-6-9-8(2)17-12(19-9)18-11(13)14;;/h3-5H,6H2,1-2H3,(H,15,16)(H4,13,14,17,18);2*1H
